US04116670
Preparation of N-Isopropyl-N-(1,3-dioxan-2-ylmethyl)-α-chloroacetamide
N-Isopropyl-N-(2,2-diethoxyethyl)-α-chloroacetamide (10 grams), propandiol-1,3 (2.9 ml) and trace amounts of toluenesulfonic acid were charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture was heated until no more ethanol was given off. After this time sodium carbonate (1 gram) was added to the mixture with stirring and the resulting mixture was distilled to yield the desired product N-isopropyl-N-(1,3-dioxan-2-ylmethyl)-α-chloroacetamide having a boiling point of 165° C. at 1.0 mm of Hg pressure.

reactant | N-Isopropyl-N-(2,2-diethoxyethyl)-α-chloroacetamide | 10 grams | C(C)(C)N(C(CCl)=O)CC(OCC)OCC | C11H22ClNO3
reactant | toluenesulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium carbonate | 1 gram | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | N-isopropyl-N-(1,3-dioxan-2-ylmethyl)-α-chloroacetamide | C(C)(C)N(C(CCl)=O)CC1OCCCO1 | C10H18ClNO3
